US09238656B2
Synthesis of (1S,2S,3R,4R)-3-(6-Bromo-2-furan-3-yl-3H-imidazo[4,5-b]pyridin-7-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound CVIII)
In a similar fashion to Compound LXXXVII, (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (50 mg, 0.148 mmol) and 3-Furaldehyde (15.6 mg, 0.163 mmol) were reacted to produce 33 mg (54%) of the title compound. mp: 231-232° C., 1H NMR (300 MHz, DMSO-d6): 13.1 (s, 1H), 8.31 (s, 1H), 8.00 (s, 1H), 7.84 (s, 1H), 7.74 (br s, 1H), 7.21 (s, 1H), 7.10 (d, J=8 Hz, 1H), 7.01 (s, 1H), 6.40 (br s, 1H), 6.33 (br s, 1H), 5.15 (t, J=8 Hz, 1H), 2.87 (s, 1H), 2.74 (s, 1H), 2.60 (d, J=8 Hz, 1H), 2.23 (d, J=8 Hz, 1H), 1.37 (d, J=8 Hz, 1H). MS: 414-416 (M+H), HPLC: 2.27 min (G method)

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.148 mmol, 50 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Br | C13H16BrN5O
reactant | 3-Furaldehyde | 0.163 mmol, 15.6 mg | O1C=C(C=C1)C=O | C5H4O2
product | (1S,2S,3R,4R)-3-(6-Bromo-2-furan-3-yl-3H-imidazo[4,5-b]pyridin-7-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 33 mg, 54% | BrC=1C(=C2C(=NC1)NC(=N2)C2=COC=C2)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C18H16BrN5O2
